US05491148
Proceeding as in Example 1, Method A, but replacing 2,3-dimethylbenzoic acid with 3-chloro-2-methylbenzoic acid and (RS)-3-amino-1-azabicyclo[2.2.2]octane with (S)-3-amino-1-azabicyclo[2.2.2]octane gave (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-chloro-2-methylbenzamide.

reactant | 3-chloro-2-methylbenzoic acid | ClC=1C(=C(C(=O)O)C=CC1)C | C8H7ClO2
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane | NC1CN2CCC1CC2 | C7H14N2
reactant | (S)-3-amino-1-azabicyclo[2.2.2]octane | N[C@@H]1CN2CCC1CC2 | C7H14N2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-chloro-2-methylbenzamide | N12C[C@H](C(CC1)CC2)NC(C2=C(C(=CC=C2)Cl)C)=O | C15H19ClN2O
